US08669208B2
2,2,7-Trifluoro-6-isothiocyanato-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one
Sodium bicarbonate (4.10 g, 48.8 mmol) was added to a stirred solution of 6-amino-2,2,7-trifluoro-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (the product of Step 1.6 above, 5.0 g, 19.52 mmol) in absolute ethanol (100 ml) at 0° C. under nitrogen. Thereafter thiophosgene (1.795 ml, 23.42 mmol) was added dropwise under ice-bath cooling, keeping the temperature of the reaction mixture below 10° C. After the addition was complete, the reaction mixture was stirred for 1 h at room temperature, by which time, according to TLC analysis, the reaction was complete. The salts were removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo to yield 6.55 g of crude product, containing ca. 30% ethyl carbamate. Recrystallisation from dichloromethane afforded 3.84 g of the desired product (>90% purity), which was used without further purification.

reactant | Sodium bicarbonate | 48.8 mmol, 4.10 g | C([O-])(O)=O.[Na+]
reactant | 6-amino-2,2,7-trifluoro-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | NC1=CC2=C(OC(C(N2CC#C)=O)(F)F)C=C1F | C11H7F3N2O2
reactant | thiophosgene | 23.42 mmol, 1.795 ml | C(=S)(Cl)Cl | CCl2S
reactant | ethyl carbamate | C(N)(OCC)=O | C3H7NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,2,7-Trifluoro-6-isothiocyanato-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | 3.84 g, >90% | FC1(C(N(C2=C(O1)C=C(C(=C2)N=C=S)F)CC#C)=O)F | C12H5F3N2O2S
